US04117128
Acylation of 2-(3-trifluoromethylbenzyl)benzofuran with 4-methoxybenzenesulfonyl chloride as described in the procedure described above followed by demethylation of the 3-(4-methoxyphenylsulfonyl)-2-(3-trifluoromethylbenzyl)benzofuran thus formed also as described above gives 3-(4-hydroxyphenylsulfonyl)-2-(3-trifluoromethylbenzyl)benzofuran.

reactant | 2-(3-trifluoromethylbenzyl)benzofuran | FC(C=1C=C(CC=2OC3=C(C2)C=CC=C3)C=CC1)(F)F | C16H11F3O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 3-(4-methoxyphenylsulfonyl)-2-(3-trifluoromethylbenzyl)benzofuran | COC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)CC2=CC(=CC=C2)C(F)(F)F | C23H17F3O4S
product | 3-(4-hydroxyphenylsulfonyl)-2-(3-trifluoromethylbenzyl)benzofuran | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)CC2=CC(=CC=C2)C(F)(F)F | C22H15F3O4S
